### PR TITLE
[Merged by Bors] - feat: `NullMeasurable` function is `AEMeasurable`

### PR DESCRIPTION
**Pull request by urkud**
This is true if the function admits an a.e. range
with countably generated σ-algebra.

In particular, a function is `AEStronglyMeasurable`
iff it is `NullMeasurable` and it admits a separable a.e. range.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/AEMeasurable.lean [hunk 1]
```diff
@@ -391,3 +395,46 @@ theorem MeasureTheory.Measure.map_mono_of_aemeasurable {f : α → δ} (h : μ 
     (hf : AEMeasurable f ν) : μ.map f ≤ ν.map f := fun s hs => by
   simpa [hf, hs, hf.mono_measure h] using Measure.le_iff'.1 h (f ⁻¹' s)
 #align measure_theory.measure.map_mono_of_ae_measurable MeasureTheory.Measure.map_mono_of_aemeasurable
+
+/-- If the `σ`-algebra of the codomain of a null measurable function is countably generated,
+then the function is a.e.-measurable. -/
+lemma MeasureTheory.NullMeasurable.aemeasurable {f : α → β}
+    [hc : MeasurableSpace.CountablyGenerated β] (h : NullMeasurable f μ) : AEMeasurable f μ := by
+  nontriviality β; inhabit β
+  rcases hc.1 with ⟨S, hSc, rfl⟩; have := MeasurableSpace.generateFrom S
```
Comment (urkud) [inline Mathlib/MeasureTheory/Measure/AEMeasurable.lean:404]:
```suggestion
  rcases hc.1 with ⟨S, hSc, rfl⟩
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
